US04062862
To 5.3 g of m-methylallylbenzene was added 85 ml of chloroform solution containing perbenzoic acid and the mixture was allowed to stand at room temperature overnight. The resulting solution was washed with sodium hydroxide solution, Mohr's salt solution and then water, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was distilled under reduced pressure to give 1.1 g (yield 19%) of m-methylallylbenzene oxide having a boiling point of 90° C/7 mmHg.

reactant | m-methylallylbenzene | 5.3 g | CC=CCC=1C=CC=CC1 | C10H12
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
solvent | chloroform | 85 ml | C(Cl)(Cl)Cl | CHCl3
product | m-methylallylbenzene oxide | 1.1 g, yield 19% | CC=CCC=1C2C(C=CC1)O2 | C10H12O
